US03976633
A cooled solution of 3.6 ml. of concentrated sulfuric acid and 3.6 ml. of water is added to 3.0 g. (0.016 mol.) of 2-cyano-5-trifluoromethylaniline. The slurry is cooled (ice bath) and stirred and a solution of 1.1 g. (0.016 mol.) of sodium nitrite in 6 ml. of water is added dropwise. The resulting mixture is then added to a solution of 3 ml. of aniline in 120 ml. of ethanol. Additional aniline (6 ml.) is added and the reaction mixture is stirred for 15 minutes. The mixture is poured into 500 ml. of water and the precipitate is collected by filtration, washed with water and recrystallized from hexane to give 3-(2-cyano-5-trifluoromethylphenyl)-1-phenyltriazene, m.p. 139°-141°.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-cyano-5-trifluoromethylaniline | 0.016 mol | C(#N)C1=C(N)C=C(C=C1)C(F)(F)F | C8H5F3N2
reactant | sodium nitrite | 0.016 mol | N(=O)[O-].[Na+]
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | aniline | 6 ml | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(2-cyano-5-trifluoromethylphenyl)-1-phenyltriazene | C(#N)C1=C(C=C(C=C1)C(F)(F)F)NN=NC1=CC=CC=C1 | C14H9F3N4
